US07375100B2
4-{[tert-Butyl(dimethyl)silyl]oxy}-1-naphthaldehyde
4-Hydroxynaphthalene-1-carbaldehyde (2.00 g, 11.63 mmol), tert-butyldimethylsilyl chloride (1.93 g, 12.80 mmol), imidazole (983 mg, 15.12 mmol) and N,N-dimethylaminopyridine (4 mg) in N,N-dimethylformamide (20 ml) were stirred at RT for 20 h. The solvent was removed and the mixture suspended in ethyl acetate (20 ml) and washed with water (20 ml). The aqueous phase was extracted with ethyl acetate (20 ml) and the combined organics washed with brine (2×20 ml) and dried (MgSO4). The solvent was removed leaving the product as a brown oil which solidified on standing.

reactant | 4-Hydroxynaphthalene-1-carbaldehyde | 11.63 mmol, 2.00 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | tert-butyldimethylsilyl chloride | 12.80 mmol, 1.93 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 15.12 mmol, 983 mg | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-1-naphthaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C2=CC=CC=C12)C=O | C17H22O2Si
